US06376408B1
4-[3′,5′-di-t-butylphenyl]-2-methylindene
4-Chloro-2-methylindene (6.1 g, 37 mmol) and NiCl2(PPh3)2 (1.8 g, 2.8 mmol) were dissolved in 150 mL of Et2O. 3,5-Di-t-butylphenylmagnesium bromide (10 g, 37 mmol) as a Et2O solution was added to the solution and the reaction was stirred overnight at room temperature. After overnight stirring, the reaction was slowly quenched with H2O to neutralize unreacted Grignard. The solution was subsequently treated with 100 mL of 10% HCl(aq), neutralized with saturated sodium bicarbonate aqueous solution. The organic layer was dried with magnesium sulfate and the solvent was removed by rotary evaporation. The remaining residue was loaded onto a silica gel column and eluted with hexane. Yield was 4.6 g (40%). lithium 4-[3′,5′-di-t-butylphenyl]-2-methylindene 4-[3′,5′-Di-t-butylphenyl]-2-methylindene (4.7 g, 15 mmol) was dissolved in 80 mL of pentane. To this solution was added 5.9 mL of n-BuLi (2.5M in hexane) and the reaction is allowed to stir 4 hours at room temperature. A white solid precipitated from solution and was collected by frit filtration and washed with additional pentane. Yield was 3.6 g (78%).

reactant | 4-Chloro-2-methylindene | 37 mmol, 6.1 g | ClC1=C2C=C(CC2=CC=C1)C | C10H9Cl
reactant | 3,5-Di-t-butylphenylmagnesium bromide | 37 mmol, 10 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)[Mg]Br
reactant | lithium 4-[3′,5′-di-t-butylphenyl]-2-methylindene 4-[3′,5′-Di-t-butylphenyl]-2-methylindene | 15 mmol, 4.7 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=C2C=C(CC2=CC=C1)C.C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=C2C=C(CC2=CC=C1)C.[Li]
reactant | n-BuLi | 2.5M, 5.9 mL | [Li]CCCC
solvent | Et2O | 150 mL | CCOCC | C4H10O
solvent | pentane | 80 mL | CCCCC | C5H12
catalyst | NiCl2(PPh3)2 | 2.8 mmol, 1.8 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[3′,5′-di-t-butylphenyl]-2-methylindene | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C1=C2C=C(CC2=CC=C1)C | C24H30
